US07262198B2
Aniline (0.98 mL, 10.7 mmol) and Et3N (1.8 mL, 12.9 mmol) in toluene (25 mL) were treated with 2-chloro-1-ethanesulfonylchloride (1.1 mL, 10.5 mmol). The exothermic reaction was stirred for 14 hours at room temperature. After stirring, the solution was diluted with EtOAc and washed with HCl (˜10% aq. soln.). The organic layer concentrated and purified via flash column chromatography (4:1 hexane/EtOAc) to afford two lots of phenyl(vinylsulfonyl)amine.

reactant | Aniline | 10.7 mmol, 0.98 mL | NC1=CC=CC=C1 | C6H7N
reactant | Et3N | 12.9 mmol, 1.8 mL | CCN(CC)CC | C6H15N
reactant | 2-chloro-1-ethanesulfonylchloride | 10.5 mmol, 1.1 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | phenyl(vinylsulfonyl)amine | C1(=CC=CC=C1)NS(=O)(=O)C=C | C8H9NO2S
